US09102671B2
A 22 L 4 neck round bottom flask was charged with (R)-N-((R)-1-(3-cyano-5-fluorophenyl)but-3-enyl)-2-methylpropane-2-sulfinamide (I-18) (441 g, 1.5 mol) and DCM (6 L). The solution was cooled to <0° C. and mCPBA (737 g, 3.0 mol) was added in portions over 60 minutes at a batch temperature <10° C. (Note: a mild exotherm and gas evolution were observed. A white suspension was obtained after the addition). The reaction mixture was stirred at 0-10° C. over 20 minutes and warmed to room temperature and stirred at room temperature for 3 hours. Additional mCPBA (387.5 g, 1.54 mol) was added and the mixture was stirred at room temperature for an additional 18 hours. The reaction was monitored by HPLC until deemed complete. The mixture was cooled to <10° C. and water (7.3 L) was added to the reaction mixture. (Note: exotherm from 5° C. to 12° C.) A saturated K2CO3 solution (1.94 L) was added until pH˜9.0 was reached. (Note: A suspension was initially obtained and a biphasic solution was obtained after stirring). The DCM layer was separated and to it was added 10% sodium bisulfite solution (2.9 L) over 15 minutes at 4 to 9° C. (aqueous layer pH 3-4). The mixture was stirred 30 minutes at 9 to 12° C. and the DCM layer was then washed with a mixture of brine (3 L) and aqueous saturated NaHCO3 (2 L) (aqueous layer pH=7). Aqueous saturated K2CO3 (150 mL) was added until pH=8.5 at 10 to 16° C. The DCM solution was concentrated under vacuum (250 to 50 torr) at 25° C. to give N-((1R)-1-(3-cyano-5-fluorophenyl)-2-(oxiran-2-yl)ethyl)-2-methylpropane-2-sulfonamide (I-19) as an oil (as a mixture of diastereoisomers). 1H NMR (400 MHz, CDCl3) δ 748-7.50 (m, 1 H), 7.30-7.40 (m, 1 H), 7.28-7.29 (m, 1 H), 5.28-5.37 (m, 1 H), 4.77-4.88 (m, 1 H), 2.89-3.00 (m, 1 H), 2.79-2.85 (m, 1 H), 2.48-2.62 (m, 1 H), 2.21-2.31 (m, 1 H), 1.86-1.84 (m, 1 H), 1.36 (s, 9 H).

reactant | (R)-N-((R)-1-(3-cyano-5-fluorophenyl)but-3-enyl)-2-methylpropane-2-sulfinamide | 1.5 mol, 441 g | C(#N)C=1C=C(C=C(C1)F)[C@@H](CC=C)N[S@](=O)C(C)(C)C | C15H19FN2OS
reactant | DCM | 6 L | C(Cl)Cl | CH2Cl2
reactant | mCPBA | 3.0 mol, 737 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 1.54 mol, 387.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | K2CO3 | 1.94 L | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 7.3 L | O | H2O
product | N-((1R)-1-(3-cyano-5-fluorophenyl)-2-(oxiran-2-yl)ethyl)-2-methylpropane-2-sulfonamide | C(#N)C=1C=C(C=C(C1)F)[C@@H](CC1OC1)NS(=O)(=O)C(C)(C)C | C15H19FN2O3S
